US06897231B2
SYNTHESIS OF 5-[3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]-3-BENZYL-4H-1,2,4-TRIAZOLE
The procedure described in example 123 using ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride (200 mg, 0.62 mmol), triethylamine (0.25 mL, 1.86 mmol) and phenyl acetic hydrazide (187 mg, 1.25 mmol) was used to prepare the title compound (101 mg, 44% yield). 1H NMR (DMSO-d6) δ 8.7 (s, 1H), 8.05 (m, 3H), 7.5 (d, 1H), 7.2-7.5 (m, 7H), 4.15 (s, 2H), ES-MS(m/z) 370 [M+1]+.

reactant | ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride | 0.62 mmol, 200 mg | Cl.C(C)OC(=N)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F
reactant | triethylamine | 1.86 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl acetic hydrazide | 1.25 mmol, 187 mg | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
product | 5-[3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]-3-BENZYL-4H-1,2,4-TRIAZOLE | 101 mg, 44% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C=1NC(=NN1)CC1=CC=CC=C1 | C22H16FN5
